US08420816B2
(R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methyl-N-(1,1-dioxidotetrahydrothien-3-yl)butanamide
To an 8 mL scintillation vial equipped for stirring was added (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid (15 mg, 0.051 mmol). DMF (0.5 mL), 1,1-dioxidotetrahydrothien-3-ylamine (10.4 mg, 0.077), HOBt (11.83 mg, 0.077 mmol), EDC (14.81 mg, 0.077 mmol) and N,N-dimethylpyridin-4-amine (9.44 mg, 0.077 mmol) were added and the solution was stirred at 25° C. for 4 h. The reaction mixture was purified via preparative mass trigger LC-MS (AcCN/H2O, 20-50%). The fractions were collected and lyophilized to afford the title compound as a white solid (5.1 mg, 24.3%). 1H NMR (400 MHz, CD3OD) δ 0.93 (dd, J=6.57, 1.26 Hz, 3 H) 1.05 (dd, J=6.32, 3.79 Hz, 3 H) 2.06-2.28 (m, 1 H) 2.40-2.59 (m, 2 H) 2.98 (td, J=12.57, 7.45 Hz, 1 H) 3.04-3.18 (m, 1 H) 3.21-3.29 (m, 1 H) 3.35-3.53 (m, 1 H) 4.51-4.66 (m, 1 H) 4.95-5.12 (m, 2 H) 5.40 (dd, J=19.20, 13.39 Hz, 1 H) 7.83-7.89 (m, 1 H) 8.17 (dd, J=3.28, 1.52 Hz, 1 H). [M+H] calc'd for C18H21FN4O4S, 409; found, 409.3.

reactant | (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid | 0.051 mmol, 15 mg | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)C)=O)=CN2 | C14H14FN3O3
reactant | 1,1-dioxidotetrahydrothien-3-ylamine | 10.4 mg | O=S1(CC(CC1)N)=O | C4H9NO2S
reactant | HOBt | 0.077 mmol, 11.83 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.077 mmol, 14.81 mg
catalyst | N,N-dimethylpyridin-4-amine | 0.077 mmol, 9.44 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methyl-N-(1,1-dioxidotetrahydrothien-3-yl)butanamide | 5.1 mg, 24.3% | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)NC1CS(CC1)(=O)=O)C(C)C)=O)=CN2 | C18H21FN4O4S
